US06562978B1
To a solution of 1-(benzyloxycarbonyl)-4-piperidine carboxylic acid (7.90 g, 30 mmol) and DMF (0.023 ml) in dichloromethane (10 ml) was added oxalyl chloride (3.84 ml) at room temperature with stirring, and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. To the concentrate was added toluene (50 ml) and the mixture was concentrated under reduced pressure. The procedure was repeated. A solution of the concentrate in acetone (10 ml) was added dropwise to a solution of sodium azide (4.88 g, 75 mmol) in water (25 ml)-acetone (25 ml) under ice cooling, and the mixture was stirred at the same temperature for 2 hours. To the mixture was added water (10 ml), ant the mixture was. extracted with toluene (100 ml×2). The organic layer was washed with saturated sodium chloride solution (20 ml×2), dried over anhydrous sodium sulfate and concentrated under reduced pressure the volume becomes to about 100 ml. The solution was stirred at 90° C. for 1 hour. The reaction mixture was concentrated under reduced pressure to give 1-(benzyloxycarbonyl)-4-piperidinylisocyanate (7.99 g). To a solution of the compound obtained in Reference Example 1 (3.81 g, 10 mmol) and triethylamine (3.49 ml) in dichloromethane (100 ml) was added 1-(benzyloxycarbonyl)-4-piperidinylisocyanate (3.90 g), with stirring at room temperature. The mixture was stirred at the same temperature for 3 days. The reaction mixture was concentrated under reduced pressure, and to the concentrate was added a saturated aqueous solution of sodium hydrogencarbonate (50 ml) under ice cooling, and the mixture was extracted with ethyl acetate (50 ml×3). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The concentrate was subjected to column chromatography (silica gel 10 g, ethyl acetate/methanol=1/0 to 9/1), and the desired fraction was concentrated under reduced pressure to give the titled compound (5.54 g, 9.7 mmol, Yield 97%) as colorless oily substance.

reactant | 1-(benzyloxycarbonyl)-4-piperidine carboxylic acid | 30 mmol, 7.90 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | DMF | 0.023 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.84 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium azide | 75 mmol, 4.88 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 1-(benzyloxycarbonyl)-4-piperidinylisocyanate | 7.99 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N=C=O | C14H16N2O3
